US05686617
Preparation of methyl 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α,α-dimethyl-1H-benzotriazole-1-acetate
A solution of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-β,β-dimethyl-1H-benzotriazole-1-ethanol (2.2 g, 0.00545 mole) in acetic acid and water is stirred at 56°-80° C., treated portionwise with solid KMnO4 (8.5 g, 0.054 mole) over a 3 hour period, cooled and filtered. The filtrate is concentrated in vacuo to give a gum residue. The residue is chromatographed on silica gel with 15% tetrahydrofuran in chloroform to afford a white solid, 1.2 g. The solid is dissolved in methanol, treated with a solution of diazomethane in tetrahydrofuran, heated on a steam bath and concentrated in vacuo to give a solid residue. Chromatography of the residue using silica gel and 5% tetrahydrofuran in carbon tetrachloride as eluant affords the title product as a white solid, 0.65 g, mp 76.8°-80° C., identified by elemental and NMR analyses.

reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-β,β-dimethyl-1H-benzotriazole-1-ethanol | 0.00545 mole, 2.2 g | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(CO)(C)C)C1)F)C(F)(F)F | C17H14ClF4N3O2
reactant | KMnO4 | 0.054 mole, 8.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α,α-dimethyl-1H-benzotriazole-1-acetate | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)OC)(C)C)C1)F)C(F)(F)F | C18H14ClF4N3O3
